US07501411B2
Step 3: 3-{tert-Butoxycarbonyl-[5-(1H-pyrazol-4-yl)-[1,2, 4]triazolo[1,5-a]pyrazin-8-yl]-amino}benzoic acid ethyl ester
Nitrogen is bubbled through a mixture of 3-[(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-tert-butoxycarbonyl-amino]benzoic acid ethyl ester (0.58 g, 1.25 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (0.49 g, 2.50 mmol), K2CO3 (0.35 g, 2.50 mmol) and Pd(dppf)Cl2DCM (102 mg, 0.125 mmol) in dioxane (37.5 mL) and water (9.6 mL). A condenser is fitted to the flask, the system is evacuated and purged with N2 (g) and then heated at 115° C. for 25 min. The heating bath is removed and CO2 (s) is added to cool and buffer the system. The solvent is removed under reduced pressure and the residue is purified by silica chromatography, eluting with 10% to 50% ethyl acetate in DCM, to afford the title compound as an orange oil (0.61 g, >100%) which is used without further purification.

reactant | 3-[(5-bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-tert-butoxycarbonyl-amino]benzoic acid ethyl ester | 1.25 mmol, 0.58 g | C(C)OC(C1=CC(=CC=C1)N(C(=O)OC(C)(C)C)C=1C=2N(C(=CN1)Br)N=CN2)=O | C19H20BrN5O4
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 2.50 mmol, 0.49 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | K2CO3 | 2.50 mmol, 0.35 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 37.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 9.6 mL | O | H2O
product | 3-{tert-Butoxycarbonyl-[5-(1H-pyrazol-4-yl)-[1,2, 4]triazolo[1,5-a]pyrazin-8-yl]-amino}benzoic acid ethyl ester | 0.61 g, >100% | C(C)OC(C1=CC(=CC=C1)N(C=1C=2N(C(=CN1)C=1C=NNC1)N=CN2)C(=O)OC(C)(C)C)=O | C22H23N7O4
